US07799762B2
2.10.2. (2R)-2-[(R)-3-benzyloxytetradecanoylamino]-5-(hept-6-enyl)amino-pentan-1-ol
A solution of freshly prepared triflate hereinabove (956 mg; 3.88 mmol.) in CH2Cl2 (10 ml) is added dropwise to a solution of (2R)-5-amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol (Section 1.1.2.) (1.69 g; 3.88 mmol) in CH2Cl2 (10 ml) and the mixture is stirred for 4 hours at room temperature under argon flow. After dilution with CH2Cl2, the reaction medium is successively washed with an aqueous saturated solution of NaHCO3 and with H2O. The organic layer thus obtained is dried over MgSO4 and concentrated under vacuum. By running a flash chromatography purification on a silica gel (15/1 CH2Cl2/MeOH eluent), there is recovered the desired secondary amine (862 mg; 43%) Rf=0.3 (8/1 CH2Cl2/MeOH). ES/MS: m/z ratio 532.0 [M+H]+. 1H-NMR (CDCl3, 250 MHz), δ in ppm: 7.2-7.4; 7.1; 5.8; 5.0; 4.6; 3.95; 3.5; 2.9; 2.5; 2.1; 1.9-1.5; 1.5-1.2; 0.9. 13C-NMR (CDCl3, 62.89 MHz), δ in ppm: 172.17; 138.28; 138.21; 128.39; 127.96; 127.71; 114.82; 76.80; 71.40; 63.81; 50.87; 48.30; 47.75; 41.57; 34.10; 33.39; 31.89; 29.66; 29.62; 29.33; 28.19; 28.03; 25.21 26.11; 25.78; 22.82; 22.66; 14.10. 1H-NMR (CDCl3, 250 MHz), δ in ppm: 7.2-7.4; 6.75; 5.8; 5.0; 4.5; 3.9; 3.5; 2.5; 2.0; 2.1; 1.7-1.2; 0.9. 13C-NMR (CDCl3, 62.89 MHz), δ in ppm: 172.77; 138.68; 138.14; 128.23; 127.72; 127.56; 114.22; 76.64; 71.37; 64.58; 51.45; 49.79; 49.37; 41.53; 33.90; 33.53; 31.77; 29.65; 29.20; 28.64; 28.57; 25.00; 26.68; 25.93; 22.53; 13.98 (ammonium salt and free base spectra, respectively).

reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | (2R)-5-amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol | 3.88 mmol, 1.69 g | NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C26H46N2O3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (2R)-2-[(R)-3-benzyloxytetradecanoylamino]-5-(hept-6-enyl)amino-pentan-1-ol | C(C1=CC=CC=C1)O[C@@H](CC(=O)N[C@@H](CO)CCCNCCCCCC=C)CCCCCCCCCCC | C33H58N2O3
